US07897607B2
3-[(2,4-Dimethylphenyl)amino]-5-(dipropylamino)-1-methylpyridin-2(1H)-one
To a mixture containing 0.11 g (0.40 mmol) of 3-[(2,4-dimethylphenyl)amino]-1-methyl-5-nitropyridin-2(1H)-one in 50 ml of ethanol was added 0.062 ml (0.86 mmol) of propionaldehyde, 0.15 ml of glacial acetic acid and 0.15 g of 10% palladium on carbon (Degussa type, 50% wet). The flask was fitted with a balloon of hydrogen and allowed to stir at room temperature for 4 h. The reaction was filtered through GF/F paper and the filtrate concentrated under reduced pressure. The residue was purified via preparative HPLC to afford 5 mg (3.7%) of product.

reactant | 3-[(2,4-dimethylphenyl)amino]-1-methyl-5-nitropyridin-2(1H)-one | 0.40 mmol, 0.11 g | CC1=C(C=CC(=C1)C)NC=1C(N(C=C(C1)[N+](=O)[O-])C)=O | C14H15N3O3
reactant | propionaldehyde | 0.86 mmol, 0.062 ml | C(CC)=O | C3H6O
reactant | acetic acid | 0.15 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
product | 3-[(2,4-Dimethylphenyl)amino]-5-(dipropylamino)-1-methylpyridin-2(1H)-one | 5 mg, 3.7% | CC1=C(C=CC(=C1)C)NC=1C(N(C=C(C1)N(CCC)CCC)C)=O | C20H29N3O
